US07811595B2
Preparation of [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester (3):
To a solution of 3,5-bis-benzyloxy-pyridine-2-carboxylic acid HCl, 2, (8.06 g, 21.7 mmol) in DMF (100 mL) at 0° C. under N2 is added diisopropylethylamine (11.35 mL, 65.1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (6.23 g, 32.6 mmol) and 1-hydroxybenzotriazole (HOBt) (0.294 g, 2.2 mmol). The solution is stirred for 5 minutes and glycine methyl ester hydrochloride (4.09 g, 32.6 mmol) is added. The reaction is allowed to warm slowly to room temperature and stirred 3 days. The reaction volume is partially concentrated under reduced pressure then diluted with EtOAc and washed with saturated aqueous NaHCO3 and saturated aqueous NaCl. The organic layer is dried (MgSO4), filtered and concentrated under reduced pressure to afford a yellow oil that is purified over silica (EtOAc:heptane gradient 1:1 to 1:0) to afford 3.5 g (40% yield) of the desired product as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.12 (1H, t, J=4.9 Hz), 7.95 (1H, d, J=1.8 Hz), 7.38-7.44 (2H, m), 7.22-7.35 (8H, m), 6.85 (1H, d, J=2.6 Hz), 5.14 (2H, s), 5.03 (2H, s), 4.18 (2H, d, J=5.5 Hz), 3.69 (3H, s). HPLC-MS: m/z 407 [M+H]+.

reactant | 3,5-bis-benzyloxy-pyridine-2-carboxylic acid HCl | Cl.C(C1=CC=CC=C1)OC=1C(=NC=C(C1)OCC1=CC=CC=C1)C(=O)O
reactant | diisopropylethylamine | 65.1 mmol, 11.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 32.6 mmol, 6.23 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 2.2 mmol, 0.294 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | glycine methyl ester hydrochloride | 32.6 mmol, 4.09 g | Cl.COC(CN)=O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester | 3.5 g, 40% yield | COC(CNC(=O)C1=NC=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C23H22N2O5
